US08809539B2
To a solution of piperidine-1,3,3-tricarboxylic acid 1-tert-butyl 3,3-dibenzyl ester (3.59 g 7.9 mmol) in N,N-dimethylformamide (100 mL) cooled with a water/ice bath, is added dropwise a solution of potassium hydroxyde (0.68 g 85% 10 mmol) in water (29 mL). The mixture is further stirred with cooling for 2 h, then allowed to warm to room temperature and acidified with acetic acid (1.05 eq). After concentration under reduced pressure, the crude product is dissolved in diisopropyl oxyde, washed with water, dried over magnesium sulphate and concentrated under reduced pressure to give piperidine-1,3,3-tricarboxylic acid 1-tert-butyl 3-benzyl ester as an oil.

reactant | piperidine-1,3,3-tricarboxylic acid 1-tert-butyl 3,3-dibenzyl ester | 7.9 mmol, 3.59 g | C(C1=CC=CC=C1)OC(=O)C1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C26H31NO6
reactant | potassium | [K] | K
reactant | acetic acid | 1.05 eq | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | 29 mL | O | H2O
product | piperidine-1,3,3-tricarboxylic acid 1-tert-butyl 3-benzyl ester | C(C1=CC=CC=C1)OC(=O)C1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)O | C19H25NO6
